US08022062B2
4-tert-Butylthiomethyl-benzonitrile:
Add sodium hydride (359 mg, 14.21 mmol) to a solution of 2-methyl-2-propanethiol (900 mg, 9.98 mmol) in anhydrous DMF (15 mL) under nitrogen. Stir the mixture for 15 min, add 4-bromomethyl-benzonitrile (2.348 g, 11.97 mmol) and stir the resulting mixture overnight at room temperature. Add water and extract the aqueous phase twice with EtOAc. Wash the combined organic extracts twice with iced-water, dry over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc 92:8 to give the desired intermediate (1.42 g, 69% yield).

reactant | sodium hydride | 14.21 mmol, 359 mg | [H-].[Na+]
reactant | 2-methyl-2-propanethiol | 9.98 mmol, 900 mg | CC(C)(C)S | C4H10S
reactant | 4-bromomethyl-benzonitrile | 11.97 mmol, 2.348 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-tert-Butylthiomethyl-benzonitrile | 1.42 g, 69% yield | C(C)(C)(C)SCC1=CC=C(C#N)C=C1 | C12H15NS
